US05036075
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (7 g), triethylamine (3.5 cc) and 4-(2-fluorophenyl)piperazine (4.4 g) in toluene (150 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with dichloromethane as eluant, and recrystallization from boiling acetonitrile (15 cc), 2-{3-[4-(2-fluorophenyl)-1-piperazinyl]propyl)naphtho[1,8-cd]isothiazole 1,1dioxide (4.8 g) is obtained, m.p. 112° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 7 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 3.5 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(2-fluorophenyl)piperazine | 4.4 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
solvent | toluene | 150 cc | C1(=CC=CC=C1)C | C7H8
product | 2-{3-[4-(2-fluorophenyl)-1-piperazinyl]propyl)naphtho[1,8-cd]isothiazole 1,1dioxide | 4.8 g | FC1=C(C=CC=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H24FN3O2S
